US06376512B1
B. 3-(2-quinolinylmethyloxy)benzoic acid chloride
A mixture of 15.6 g (0.1 mol) of 3-(2-quinolinylmethyloxy)benzoic acid and 11.9 g (0.1 mol) of thionyl chloride is refluxed for 4 hours. The reaction mixture is then evaporated to dryness at room temperature and used directly in the next step.

reactant | 3-(2-quinolinylmethyloxy)benzoic acid | 0.1 mol, 15.6 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)O)C=CC1 | C17H13NO3
reactant | thionyl chloride | 0.1 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
product | 3-(2-quinolinylmethyloxy)benzoic acid chloride | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)Cl)C=CC1 | C17H12ClNO2
